US08026257B2
7-Bromo-5-fluoro-1H-indazole.
To a suspension of 2-bromo-4-fluoro-6-methylaniline (5 g, 24.51 mmol) in hydrochloric acid (8 M, 22 mL, 176 mmol) at 0° C. was added a solution of sodium nitrite (1.78 g, 25.7 mmol) in water (ca. 5.5 mL) dropwise. After 10 min, the resulting solution was neutralized (pH 4-5) by addition of solid sodium acetate. The resulting solution was added to a solution of 2-methyl-2-propanethiol (2.76 mL, 24.5 mmol) in ethanol (57 mL) at 0° C. The resulting mixture was stirred at 0° C. for 30 min. The resulting mixture was poured onto ice and the resulting mixture was extracted into diethyl ether (2×). The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. The resulting residue was dissolved in dimethylsulfoxide (14 mL) and transferred to a solution of potassium tert-butoxide (22 g, 196 mmol) in dimethylsulfoxide (140 mL) in a cool water bath (ca. 10° C.) via canula. The bath was removed and stirring continued for 30 min. The reaction mixture was poured onto ice/concentrated hydrochloric acid. The resulting mixture was extracted with dichloromethane (2×), washed with water (3×), then brine, dried over magnesium sulfate and concentrated. Prep HPLC gave 1.66 g (31.5%) as a pale solid. LC/MS (HPLC method 3): tR=2.337 min, 215.01(MH)+.

reactant | 2-bromo-4-fluoro-6-methylaniline | 24.51 mmol, 5 g | BrC1=C(N)C(=CC(=C1)F)C | C7H7BrFN
reactant | hydrochloric acid | 176 mmol, 8 M, 22 mL | Cl | ClH
reactant | sodium nitrite | 25.7 mmol, 1.78 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-methyl-2-propanethiol | 24.5 mmol, 2.76 mL | CC(C)(C)S | C4H10S
reactant | potassium tert-butoxide | 196 mmol, 22 g | CC(C)([O-])C.[K+]
solvent | water | ca. 5.5 mL | O | H2O
solvent | ethanol | 57 mL | C(C)O | C2H6O
solvent | dimethylsulfoxide | 140 mL | CS(=O)C | C2H6OS
product | 7-Bromo-5-fluoro-1H-indazole | BrC=1C=C(C=C2C=NNC12)F | C7H4BrFN2
